US20010001799A1
MnO2 (8.37 g, 96.3 mmol) was added to a solution of (3-ethoxy-5-hydroxymethyl-phenyl)-methanol (17.55 g, 96.3 mmol) in CH2Cl2 (175 ml) and the mixture was stirred for 64 h. at room temperature. Thereafter, further MnO2 (8.37 g, 96.3 mmol) was added and the mixture was stirred for 6 h. The mixture was filtered over Celite and the filtrate was concentrated. The product was purified by chromatography. There were obtained 8.32 g (48%) of 3-ethoxy-5-hydroxymethyl-benzaldehyde as a colorless oil.

reactant | (3-ethoxy-5-hydroxymethyl-phenyl)-methanol | 96.3 mmol, 17.55 g | C(C)OC=1C=C(C=C(C1)CO)CO | C10H14O3
solvent | CH2Cl2 | 175 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 96.3 mmol, 8.37 g | O=[Mn]=O
catalyst | MnO2 | 96.3 mmol, 8.37 g | O=[Mn]=O
product | 3-ethoxy-5-hydroxymethyl-benzaldehyde | 8.32 g, 48% | C(C)OC=1C=C(C=O)C=C(C1)CO | C10H12O3
